US04948796
3.92 g of 3-dimethoxymethylbenzoic acid and 2.22 g of triethylamine were dissolved in 40 ml of methylene chloride. To the solution was dropwise added 2.28 g of ethyl chlorocarbonate at -30° to -20° C. The mixture was stirred for 30 minutes at the same temperature. The mixture was then cooled to -55° C., and 5.00 g of hydrazine hydrate was added thereto. The temperature of the mixture was elevated to room temperature. The methylene chloride layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: chloroform/ethanol=30/1) to obtain 4.13 g of colorless oily 3-dimethoxymethylbenzhydrazide.

reactant | 3-dimethoxymethylbenzoic acid | 3.92 g | COC(C=1C=C(C(=O)O)C=CC1)OC | C10H12O4
reactant | triethylamine | 2.22 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 2.28 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | hydrazine hydrate | 5.00 g | O.NN
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-dimethoxymethylbenzhydrazide | 4.13 g | COC(C=1C=C(C(=O)NN)C=CC1)OC | C10H14N2O3
